US04966988
α,α,α'-Trichloro-m-xylene (22.5 grams, 93.2% a.i., 0.1 moles) was dissolved in 18 mls. of tetrachloroethylene. Hexachloroethane (59.2 grams, 0.25 moles), potassium hydroxide (12.8 grams, 87.7%, 0.2 moles), water (2.13 grams), and dodecyltrimethylammonium chloride (0.255 grams, 0.001 moles) were added. The mixture was heated at 75° C. for 2.5 hours with good stirring. The reaction was quenched with 30 mls. of water and 18 mls tetrachloroethylene. The organic phase was separated and washed with water. The excess solvent and hexachloroethane were distilled off to give an 85.2% yield of α,α,α,α'-tetrachloroxylene with a purity of 84%.

reactant | α,α,α'-Trichloro-m-xylene | ClC(C1=CC(=CC=C1)CCl)Cl | C8H7Cl3
reactant | tetrachloroethylene | ClC(=C(Cl)Cl)Cl | C2Cl4
reactant | Hexachloroethane | 0.25 moles, 59.2 grams | ClC(C(Cl)(Cl)Cl)(Cl)Cl | C2Cl6
reactant | potassium hydroxide | 0.2 moles, 12.8 grams | [OH-].[K+]
catalyst | dodecyltrimethylammonium chloride | 0.001 moles, 0.255 grams | [Cl-].C(CCCCCCCCCCC)[N+](C)(C)C
solvent | water | 2.13 grams | O | H2O
product | α,α,α,α'-tetrachloroxylene | 85.2% yield | ClC(C=1C(=CC=CC1)CCl)(Cl)Cl | C8H6Cl4
